US07652008B2
(3R*,4R*)-3,4-epoxy-2,2,7,9-tetramethyl-3,4-dihydro-2H-pyrano[2,3-g]quinoline
To a solution of 2,2,7,9-tetramethyl-2H-pyrano[2,3-g]quinoline (4.64 g, 19.4 mmol) in ethyl acetate (70 mL), N-methyl imidazole (0.303 mL, 3.88 mmol) and Ph,Ph salen manganese complex (XX) (201 mg, 0.194 mmol) were added at room temperature and aqueous sodium hypochlorite solution (25.6 g, 1.513 mol/kg, 38.8 mmol) was added dropwise, and the resulting mixture was stirred for 1 hour. Further, in water bath, aqueous sodium hypochlorite solution (25.6 g, 1.513 mol/kg, 38.8 mmol) was added, and the resulting mixture was stirred in water bath for 1 hour. Upon the completion of the reaction, aqueous sodium thiosulfate solution was added to the reaction solution, the resulting mixture was filtered through celite and extracted. The organic phase was washed with aqueous sodium hydrogencarbonate solution and then with aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=1/3) and the aimed product was obtained (yield: 68%).

reactant | 2,2,7,9-tetramethyl-2H-pyrano[2,3-g]quinoline | 19.4 mmol, 4.64 g | CC1(C=CC=2C(=CC=3C(=CC(=NC3C2)C)C)O1)C | C16H17NO
reactant | N-methyl imidazole | 3.88 mmol, 0.303 mL | CN1C=NC=C1 | C4H6N2
reactant | sodium hypochlorite | 38.8 mmol, 25.6 g | Cl[O-].[Na+]
reactant | sodium hypochlorite | 38.8 mmol, 25.6 g | Cl[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3R*,4R*)-3,4-epoxy-2,2,7,9-tetramethyl-3,4-dihydro-2H-pyrano[2,3-g]quinoline | yield: 68% | O1[C@@H]2[C@H]1C=1C(=CC=3C(=CC(=NC3C1)C)C)OC2(C)C | C16H17NO2
